US07186729B2
Step 2: (1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazin-2-yl)-acetic acid methyl ester
To a solution of 4-(4-Chloro-phenyl)-3-methoxycarbonylmethyl-piperazine (0.13 g, 0.5 mmol) in acetonitrile/water (8:2) (10 mL) was added K2CO3(0.2 g, 0.42 mmol) and 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.16 g, 0.42 mmol). The solution was allowed to stir at room temperature for 48 h. The reaction was concentrated, partitioned between EtOAc/H2O, and extracted with EtOAc (3×). The organics were combined, dried over Mg2SO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (50% ethyl acetate/50% hexane to 75% ethyl acetate/25% hexane to 100% ethyl acetate) to yield the title compound.

reactant | 4-(4-Chloro-phenyl)-3-methoxycarbonylmethyl-piperazine | 0.5 mmol, 0.13 g | ClC1=CC=C(C=C1)N1C(CNCC1)CC(=O)OC | C13H17ClN2O2
reactant | K2CO3 | 0.42 mmol, 0.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.42 mmol, 0.16 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | acetonitrile water | 10 mL | C(C)#N.O
product | (1-(4-Chloro-phenyl)-4-{3-[7-(1-hydroxy-1-methyl-ethyl)-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-ylidene]-propyl}-piperazin-2-yl)-acetic acid methyl ester | COC(CC1N(CCN(C1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)C2=CC=C(C=C2)Cl)=O | C32H36ClN3O4
